US07420001B2
Benzofuran-2-carboxylic acid (310 mg, 1.9 mmol) was mixed with 3 ml of oxalyl chloride and refluxed for 1 h in the presence of a catalytic amount of DMF, then the excess oxalyl chloride was removed by vacuum. The residue was dissolved in 4 ml of dichloromethane and was added to a mixture of 400 mg (1.6 mmol) of 4′-amino-biphenyl-4-sulfonic acid, N,N-diisopropylethylamine (0.92 ml, 4 eq) and 4 ml of THF in an ice/water bath. The mixture was stirred at room temperature for 4 h. The reaction mixture was mixed with 2N HCl and in the process a suspension formed. The solid was collected by centrifugation and was washed with chloroform and 2N HCl to provide 540 mg of 4′-[(benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonic acid, obtained as pale brown solid.

reactant | Benzofuran-2-carboxylic acid | 1.9 mmol, 310 mg | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | oxalyl chloride | 3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4′-amino-biphenyl-4-sulfonic acid | 1.6 mmol, 400 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)O | C12H11NO3S
reactant | N,N-diisopropylethylamine | 0.92 ml, 4 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | 2N | Cl | ClH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4′-[(benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonic acid | 540 mg | O1C(=CC2=C1C=CC=C2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)O | C21H15NO5S
